US04968702
3-Amino-6-chloro-2-(4'-fluoro[1,1'-biphenyl]-4-yl)-4-quinolinecarboxylic acid
A basic aqueous solution of 4.54 g of 5-chloroisatin in water was reacted with 9.0 g of 2-amino-1-(4'-fluoro-[1,1'-biphenyl]-4-yl)ethanone hydrochloride by the procedure described in example 20, giving 6.2 g of the desired compound as a yellow solid, mp 255°-257° C.

reactant | 5-chloroisatin | 4.54 g | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
reactant | 2-amino-1-(4'-fluoro-[1,1'-biphenyl]-4-yl)ethanone hydrochloride | 9.0 g | Cl.NCC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)F
reactant | water | O | H2O
product | 3-Amino-6-chloro-2-(4'-fluoro[1,1'-biphenyl]-4-yl)-4-quinolinecarboxylic acid | 6.2 g | NC=1C(=NC2=CC=C(C=C2C1C(=O)O)Cl)C1=CC=C(C=C1)C1=CC=C(C=C1)F | C22H14ClFN2O2
